US06787543B2
To a mixture of (4R,9aS)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine trihydrochloride (80 mg), cyclopentanecarboxylic acid (16.9 μl), 1-hydroxybenzotriazole hydrate (23 mg), and triethylamine (79 μl) in dichloromethane (1 ml) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride at room temperature. After stirring at room temperature overnight, the mixture was quenched with aqueous saturated sodium hydrogen carbonate and extracted with dichloromethane. The extract was dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified with preparative TLC (methanol/chloroform=1/9) to give an oil. To a solution of the oil in ethyl acetate (1 ml) was added 4N hydrogen chloride in ethyl acetate (0.2 ml) and hexane (20 ml). After stirring for 30 minutes, the precipitate was collected by filtration and dried under reduced pressure at 50° C. for 5 hours to give (4R,9aR)-4-benzhydryl-8-cyclopentanecarbonyl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine dihydrochloride (63.9 mg) as a powder.

reactant | (4R,9aS)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine trihydrochloride | 80 mg | Cl.Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1CCNC2)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC
reactant | cyclopentanecarboxylic acid | 16.9 μl | C1(CCCC1)C(=O)O | C6H10O2
reactant | 1-hydroxybenzotriazole hydrate | 23 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.2 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | 20 ml | CCCCCC | C6H14
solvent | triethylamine | 79 μl | C(C)N(CC)CC | C6H15N
product | (4R,9aR)-4-benzhydryl-8-cyclopentanecarbonyl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine dihydrochloride | 63.9 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1CCN(C2)C(=O)C2CCCC2)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC | InChI=1S/C36H40F3N7O2.2ClH/c1-48-32-17-16-29(46-35(36(37,38)39)40-41-42-46)20-28(32)21-43-22-30-23-44(34(47)27-14-8-9-15-27)18-19-45(30)31(24-43)33(25-10-4-2-5-11-25)26-12-6-3-7-13-26;;/h2-7,10-13,16-17,20,27,30-31,33H,8-9,14-15,18-19,21-24H2,1H3;2*1H/t30-,31+;;/m1../s1
